* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1227.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N005 N004 1K
X§U1 0 N004 +V -V N005 LT1227
Q1 +V N001 N002 0 2N3904
R2 N002 0 150K
C1 N001 N002 100p
C2 N002 0 68p
R3 +V N001 100K
D1 +V N001 1N4148
C3 N001 N003 75p
C§Y1 N004 N003 2p Rser=45 Lser=1026u Cpar=10p
R4 OUT N005 51
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 250u startup
* 3.58MHz Oscillator
* 3.579545MHz
.lib LTC.lib
.backanno
.end
